US07501425B1
3-(3,5-Dimethoxy-phenyl)-1-ethyl-7-[5-(4-methyl-piperazin-1-yl)-pentylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
Using the general procedure above, 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.1365 g (0.745 mmol) of 5-(4-methyl-piperazin-1-yl)-pentylamine were reacted. The residue was chromatographed over silica gel, eluting with ethyl acetate/ethanol/triethylamine (9:2:1 v/v/v), to give 0.041 g (31%) of the title compound:

reactant | 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H20N4O4S
reactant | 5-(4-methyl-piperazin-1-yl)-pentylamine | 0.745 mmol, 0.1365 g | CN1CCN(CC1)CCCCCN | C10H23N3
product | 3-(3,5-Dimethoxy-phenyl)-1-ethyl-7-[5-(4-methyl-piperazin-1-yl)-pentylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.041 g, 31% | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)NCCCCCN1CCN(CC1)C)CC)=O | C26H39N7O3
